US04851413
The solution of 400 mg (1.12 mmol) of 5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-5-(3-pyridyl)pentanoic acid in 8 ml of acetonitrile-water (1:1) was cooled to 0° C., to which the solutioin of 1.55 g (2.82 mmol) of cerium ammonium nitrate in 6 ml of acetonitrile-water (1:1) was added with stirring. The reaction mixture was stirred for 30 minutes, neutralized with sodium hydrogen carbonate, and extracted with ethyl acetate. The extract was washed with water and dried, and the solvent was evaporated off. The residue was purified with silica gel column (ethyl acetate), and recrystallized from ethanol, to give 200 mg (54.3%) of 5-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-5-(3-pyridyl)pentanoic acid.

reactant | 5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-5-(3-pyridyl)pentanoic acid | 1.12 mmol, 400 mg | COC1=C(C(=C(C(=C1C)C)OC)C)C(CCCC(=O)O)C=1C=NC=CC1 | C21H27NO4
reactant | cerium ammonium nitrate | 2.82 mmol, 1.55 g | [N+](=O)([O-])[O-].[NH4+].[Ce]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile water | 8 ml | C(C)#N.O
solvent | acetonitrile water | 6 ml | C(C)#N.O
product | 5-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-5-(3-pyridyl)pentanoic acid | 200 mg, 54.3% | CC1=C(C(C(=C(C1=O)C)C)=O)C(CCCC(=O)O)C=1C=NC=CC1 | C19H21NO4
